US07612211B2
E. N-tert-butyl-2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-benzenesulfonamide
A mixture of N-tert-butyl-2-(2-chloromethyl-1H-benzoimidazol-5-yl)benzenesulfonamide (100 mg, 0.26 mmol), α,α,α-trifluoro-p-cresol (43.0 mg, 0.26 mmol), Na2CO3 (28.1 mg, 0.26 mmol), Cs2CO3 (86.5 mg, 0.26 mmol), and catalytic KI (1.5 mg, 0.009 mmol) in acetone (2 mL) was refluxed for 12 h. The reaction mixture was concentrated under reduced pressure, and the residue was purified by chromatography (silica, EtOAc: hexanes, 1:1) to afford the title compound as an off-white solid (40.1 mg, 30% yield). Calcd. For C25H24F3N3O3S: 504.54 (M+H), Found 504.2.

reactant | N-tert-butyl-2-(2-chloromethyl-1H-benzoimidazol-5-yl)benzenesulfonamide | 0.26 mmol, 100 mg | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC2=C(NC(=N2)CCl)C=C1 | C18H20ClN3O2S
reactant | α,α,α-trifluoro-p-cresol | 0.26 mmol, 43.0 mg | FC(C=1C=CC(=CC1)O)(F)F | C7H5F3O
reactant | Na2CO3 | 0.26 mmol, 28.1 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Cs2CO3 | 0.26 mmol, 86.5 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetone | 2 mL | CC(=O)C | C3H6O
product | N-tert-butyl-2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-benzenesulfonamide | 40.1 mg, 30% yield | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC2=C(NC(=N2)COC2=CC=C(C=C2)C(F)(F)F)C=C1 | C25H24F3N3O3S
